US08420655B2
To a solution of 4-bromo-N1-tert-butyl-benzene-1,2-diamine (700 mg, 2.8 mmol) in DMF (15 mL) is added 2-(3-methyl-1,2,4-oxadiazol-5-yl)benzaldehyde (813 mg, 4.3 mmol) at room temperature. Oxone (1.7 g, 2.8 mmol) in H2O (4 mL) is added and the solution is stirred for 1 hour. Saturated sodium thiosulfate solution (10 mL) is added and the mixture is extracted with EtOAc (3×10 mL) and H2O (10 mL). The combined organic layer is dried, (MgSO4), filtered and concentrated. The residue is purified by silica gel flash column chromatography eluting with 10% MeOH in CH2Cl2 to afford the 5-bromo-1-tert-butyl-2-[2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-1H-benzimidazole (900 mg, 76%) as a pale brown solid.

reactant | 4-bromo-N1-tert-butyl-benzene-1,2-diamine | 2.8 mmol, 700 mg | BrC=1C=C(C(=CC1)NC(C)(C)C)N | C10H15BrN2
reactant | 2-(3-methyl-1,2,4-oxadiazol-5-yl)benzaldehyde | 4.3 mmol, 813 mg | CC1=NOC(=N1)C1=C(C=O)C=CC=C1 | C10H8N2O2
reactant | Oxone | 2.8 mmol, 1.7 g | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | H2O | 4 mL | O | H2O
product | 5-bromo-1-tert-butyl-2-[2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-1H-benzimidazole | 900 mg, 76% | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NC(=NO2)C)C(C)(C)C)C=C1 | C20H19BrN4O
